US07427688B2
Synthesis of 2-acetylamino-3,3-diphenylpropanoic acid
To a solution (1.25 M) of diethyl acetamidomalonate (10.94 g, 50.57 mmol) in N-methyl-2-pyrrolidone (40 mL) was added potassium t-butoxide (5.90 g, 52.60 mmol), and the mixture was stirred at room temperature for 1 hr. Diphenylmethylene bromide (10.0 g, 46.46 mmol) was added, and the mixture was stirred at 70° C. for 5 hrs. After completion of the reaction, 2M aqueous sodium hydroxide solution (45 mL) was added to the reaction mixture, and the mixture was stirred at 70° C. for 3 hrs. The reaction mixture was allowed to cool to room temperature, toluene (19 mL) was added, and the mixture was partitioned. The aqueous layer was adjusted to pH 7.0 with concentrated hydrochloric acid (8.8 mL). Ethyl acetate (80 mL) was added, and then concentrated hydrochloric acid (13.0 mL) was added. The mixture was partitioned, and the aqueous layer was extracted with ethyl acetate (40 mL). The organic layers were combined, successively washed with 2M hydrochloric acid (40 mL, three times) and saturated brine (10 mL), and concentrated. Toluene (30 mL) was added to the concentrated solution and the mixture was concentrated at 50° C. Toluene (30 mL) was added again, and the mixture was stirred for 30 min and cooled to 0° C. over 5 hrs, which resulted in the precipitation of white crystals. The crystals were collected by filtration and dried under reduced pressure to give the title compound (9.18 g).

reactant | diethyl acetamidomalonate | 50.57 mmol, 1.25 M, 10.94 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | potassium t-butoxide | 52.60 mmol, 5.90 g | CC(C)([O-])C.[K+]
reactant | Diphenylmethylene bromide | 46.46 mmol, 10.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(Br)Br | C13H10Br2
reactant | sodium hydroxide | 2M, 45 mL | [OH-].[Na+]
solvent | N-methyl-2-pyrrolidone | 40 mL | CN1C(CCC1)=O | C5H9NO
solvent | toluene | 19 mL | C1(=CC=CC=C1)C | C7H8
product | 2-acetylamino-3,3-diphenylpropanoic acid | 9.18 g | C(C)(=O)NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO3
